US07214673B2
2-Trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride salt
Add a solution of tin(II) chloride (567 mg, 3 mmol) in 12 N hydrochloric acid (1.8 mL) to a solution of 2-(2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile (307 mg, 1 mmol) in ethanol (10 mL). Reflux for 24 hours, then concentrate under vacuum, add water and filter. Wash the resulting solid with water and dichloromethane then dry under vaccum to yield the titled compound as a yellow solid (282 mg, 90%): mp 334–336° C.; 1H NMR (DMSO-d6) δ 7.05–7.19 (m, 4H), 7.34 (d, 1H), 7.86 (dd, 1H), 7.87 (s, 1H), 8.79 (s, 1H), 9.26 (s, 1H), 9.75 (s, 1H), 12.40 (s, 1H). MS (ESI/neg) m/z (rel intensity) 276.1 (100).

reactant | tin(II) chloride | 3 mmol, 567 mg | [Sn](Cl)Cl
reactant | 2-(2-nitro-phenylamino)-5-trifluoromethyl-benzonitrile | 1 mmol, 307 mg | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C#N)C=C(C=C1)C(F)(F)F | C14H8F3N3O2
solvent | hydrochloric acid | 12 N, 1.8 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride salt | 282 mg, 90% | Cl.FC(C1=CC2=C(NC3=C(N=C2N)C=CC=C3)C=C1)(F)F | InChI=1S/C14H10F3N3.ClH/c15-14(16,17)8-5-6-10-9(7-8)13(18)20-12-4-2-1-3-11(12)19-10;/h1-7,19H,(H2,18,20);1H
